US05569640
b) Benzyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-(6-methoxypyridin-2-yl)benzoate
1.36 g of benzyl alcohol dissolved in 50 ml of dimethylformamide are treated with 380 mg of sodium hydride (80% strength in liquid paraffin) and the mixture is subsequently stirred at room temperature for 1 h. 3.0 g of 2,2-dimethyl-5-(6-methoxypyridin-2-yl)-4H-(1,3)benzo-dioxin-4-one are added, the mixture is stirred at room temperature for 3 h and 2.65 g of 4,6-dimethoxy-2-methylsulfonylpyrimidine are finally added. The mixture is stirred at room temperature for 2 h, at 80° C. for 1.5 h and at 115° C. for 3 h, poured into ice-water containing phosphoric acid and extracted with ethyl acetate, and the extract is washed with water, dried over sodium sulfate and concentrated in vacuo. The crude product is purified by chromatography on silica gel 60 using cyclohexane/toluene/ethyl acetate.

reactant | benzyl alcohol | 1.36 g | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | 380 mg | [H-].[Na+]
reactant | 2,2-dimethyl-5-(6-methoxypyridin-2-yl)-4H-(1,3)benzo-dioxin-4-one | 3.0 g | CC1(OC2=C(C(O1)=O)C(=CC=C2)C2=NC(=CC=C2)OC)C | C16H15NO4
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 2.65 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | Benzyl 2-(4,6-dimethoxypyrimidin-2-yloxy)-6-(6-methoxypyridin-2-yl)benzoate | COC1=NC(=NC(=C1)OC)OC1=C(C(=O)OCC2=CC=CC=C2)C(=CC=C1)C1=NC(=CC=C1)OC | C26H23N3O6
